US07179823B1
A mixture of 4-[4-(2-ethoxycarbonylethyl)-3-phenyl-1H-pyrazol-1-ylmethyl]benzoic acid (500 mg), (5-methyl-2-phenyl-4-oxazolyl)methylamine (260 mg), 1-hydroxybenzotriazole monohydrate (210 mg), WSC (270 mg), and N,N-dimethylformamide (10 ml) was stirred at room temperature for 13 hours. The reaction mixture was poured into water, which was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium bicarbonate solution, 1 N hydrochloric acid, then, with saturated aqueous sodium chloride solution, and dried (MgSO4) and concentrated. The obtained yellow crystals were collected by filtration, and ethyl 3-[1-[4-(5-methyl-2-phenyl-4-oxazolylmethylaminocarbonyl)benzyl]-3-phenyl-1H-pyrazol-4-yl]propionate (600 mg, yield: 87%) was obtained. This was recrystallized from ethyl acetate-hexane. Melting point: 190–191° C.

reactant | 4-[4-(2-ethoxycarbonylethyl)-3-phenyl-1H-pyrazol-1-ylmethyl]benzoic acid | 500 mg | C(C)OC(=O)CCC=1C(=NN(C1)CC1=CC=C(C(=O)O)C=C1)C1=CC=CC=C1 | C22H22N2O4
reactant | (5-methyl-2-phenyl-4-oxazolyl)methylamine | 260 mg | CC1=C(N=C(O1)C1=CC=CC=C1)CN | C11H12N2O
reactant | 1-hydroxybenzotriazole monohydrate | 210 mg | O.ON1N=NC2=C1C=CC=C2
reactant | WSC | 270 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | ethyl 3-[1-[4-(5-methyl-2-phenyl-4-oxazolylmethylaminocarbonyl)benzyl]-3-phenyl-1H-pyrazol-4-yl]propionate | 600 mg, yield: 87% | CC1=C(N=C(O1)C1=CC=CC=C1)CNC(=O)C1=CC=C(CN2N=C(C(=C2)CCC(=O)OCC)C2=CC=CC=C2)C=C1 | C33H32N4O4
